US03978071
A mixture of 9 g of 2-[4-(chloroacetyl)phenyl]propionamide, 30 ml of ethanol and 7.6 g of 2-aminopyridine is heated under reflux for 2 hours. The ethanol is distilled off under reduced pressure, and water is added to the residue. The crystalline precipitate is filtered off and recrystallized from aqueous dimethylformamide to give 6.9 g of 2-[4-(imidazo[1,2-a]pyridin-2-yl)phenyl]propionamide as colorless scales melting at 219°-220°C.

reactant | 2-[4-(chloroacetyl)phenyl]propionamide | 9 g | ClCC(=O)C1=CC=C(C=C1)C(C(=O)N)C | C11H12ClNO2
reactant | 2-aminopyridine | 7.6 g | NC1=NC=CC=C1 | C5H6N2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-[4-(imidazo[1,2-a]pyridin-2-yl)phenyl]propionamide | 6.9 g | N=1C(=CN2C1C=CC=C2)C2=CC=C(C=C2)C(C(=O)N)C | C16H15N3O
